US04379154
A mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 36 cc) is added dropwise and in the course of 15 minutes to a 1.6 M solution of n-butyllithium in hexane (55 cc), kept under a nitrogen atmosphere and at a temperature of about -60° C. A solution of 2-(pyridazin-3-yl)-tetrahydrothiophen (9.7 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 36 cc) is then added in the course of 20 minutes. After stirring for 15 minutes at the same temperature, a solution of methyl isothiocyanate (6.4 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 36 cc) is added in the course of 15 minutes. The reaction mixture is subsequently stirred for 1 hour at -65° C. and then for one hour whilst allowing the temperature to rise gradually to -10° C. It is then run into a mixture of distilled water (350 cc) and ethyl acetate (300 cc). After decantation, the aqueous solution is extracted with ethyl acetate (200 cc). The organic extracts are combined, washed three times with distilled water (900 cc in total), dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 55° C. The product obtained (12.4 g) is combined with a product (1 g) prepared under the same conditions, and the combined product is chromatographed on neutral silica gel (154 g) contained in a column of diameter 3.2 cm. The column is eluted with a cyclohexane/ethyl acetate mixture (90/10 by volume; 500 cc), a cyclohexane/ethyl acetate mixture (80/20 by volume; 1000 cc), a cyclohexane/ethyl acetate mixture (70/30 by volume; 2250 cc) and a cyclohexane/ethyl acetate mixture (50/50 by volume; 2500 cc), 250 cc fractions being collected. Fractions 19 to 25 are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 55° C. The product obtained (2.4 g) is dissolved in boiling ethanol (50 cc); decolourising charcoal (0.15 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 30 minutes at 0° C. The resulting crystals are filtered off, washed with ethanol (2 cc) and then twice with diisopropyl ether (6 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 60° C. N-Methyl-2-(pyridazin-3-yl)-tetrahydrothiophen-2-carbothioamide (0.8 g), melting at 199° C., is thus obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(pyridazin-3-yl)-tetrahydrothiophen | 9.7 g | N1=NC(=CC=C1)C1SCCC1 | C8H10N2S
reactant | methyl isothiocyanate | 6.4 g | CN=C=S | C2H3NS
reactant | charcoal | 0.15 g | C | CH4
solvent | hexane | 55 cc | CCCCCC | C6H14
solvent | ethanol | 50 cc | C(C)O | C2H6O
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 350 cc | O | H2O
solvent | tetrahydrofuran | 36 cc | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 36 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36 cc | O1CCCC1 | C4H8O
product | N-Methyl-2-(pyridazin-3-yl)-tetrahydrothiophen-2-carbothioamide | 0.8 g | CNC(=S)C1(SCCC1)C=1N=NC=CC1 | C10H13N3S2
